Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lower extremity pain and swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a very pleasant ___ y/o M w/PMHx HTN who is 
otherwise healthy who presents to ___ for muscle cramps and 
elevated CK. At baseline, pt walks ~30 minutes/day and 
occasionall bikes 30 minutes at a time. On ___, she had been 
biking approximately 1 hour. At a traffic light, her foot became 
stuck in her pedal, and she fell to her Right side, landing on 
her shoulder and thigh on a curb. No headstrike, and she was 
wearing a helmet at the time. No preceding chest pain, 
light-headedness, unusual SOB. Patient immediately felt severe 
pain in her right shoulder and leg, and biked 1 hour home 
afterward. In the following days, she took naproxen 220mg BID 
for pain control and used ice. She continued to walk ___ 
minutes each day. The day after her accident, she couldn't lift 
her Right arm. She was seen by an orthopedist, and MRI showed a 
complete tear of her R supraspinatus w/1-2cm retraction. She is 
scheduled for a repair at ___ on ___. On ___, pt 
started developing cramps in her bilateral lower extremities, 
with curling of her toes. She noticed worsening swelling of her 
___, which peaked on ___. No numbness/coldness in her feet. 
She notes difficulty walking secondary to pain, and this has 
persisted since ___. Pt has otherwise not noticed any 
changes to her urine, and she describes it as relatively clear. 
No recent abdominal pain, fever, n/v, dysuria, SOB, CP, 
light-headedness. Patient went to urgent care on ___ at ___, 
where her CK was found to be 8,427. This rose to 11,329 on ___ 
and to 11,859 on ___, and she was referred to the ED for 
further evaluation.  
 On arrival to ___, VS were:  
 98.3; 59; 116/83; 14; 99% RA  
 On exam, pt was noted to have significant difficulty walking. 
Otherwise, there was no e/o compartment syndrome in ___.  
 Labs were notable for:  
 CK: ___  
 MB: 27  
 ALT: 93  
 AST: 359  
 AP: 60  
 Tbili: 0.6  
 Lactate:1.3  
 Trop-T: <0.01  
 Bicarb 27  
 BUN/Cr: ___  
 Ca: 10.0 Mg: 2.1 P: 3.9  
 CBC: 6.1>14.6/43.6<222  
 Alb: 4.7  
 UTox negative  
 Neuro was consulted, who felt that her exam was reassuring, and 
pt was admitted to medicine for rhabdomyolysis.  
 At the time of transfer, VS were:  
 97.6; 61; 111/79; 14; 100% RA  
 On the floor, pt reported feeling well. She noted continued 
pain with ambulation. Otherwise, she noted that her legs have 
become progressively less swollen since ___. Otherwise, pt 
denies any history of history of rashes, joint pains aside from 
her chronic ___ knee pain, joint swelling, FH of autoimmune 
disease, unusual exposures, unusual insect bites, new 
medications, herbal supplements.  

 
Past Medical History:
Hypertension  
Genital herpes  
Lumbar disc herniation s/p L5-S1 discectomy  
Knee sprain  

 
Social History:
___
Family History:
No FH autoimmune disease. Father with CVA and MI (in ___). +HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital Signs: 97.6; 122/82; 51; 18; 100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, 1+ pitting edema in ___ up 
to lower shin. No clubbing, cyanosis.  
MSK: Positive empty can test  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

DISCHARGE PHYSICAL EXAM:
Vitals: 98.7 122/83 57 18 98%RA  
General: AAOx3, sitting up in bed, NAD
HEENT:  atraumatic, normocephalic, MMM
CV:  RRR, no murmurs, rubs, gallops
Lungs:  CTAB, no wheezes, ronchi, rales
Abdomen:  NABS, soft, non-tender, non-distended, no rebound or 
guarding
GU:  No foley in place
Ext:  warm and well perfused, no edema
Neuro:  CN2-12 intact, strength ___ in LUE, LLE, RLE. Diminished 
strength of abduction in RUE from supraspinatus tear, cannot 
raise R arm without assistance from her other arm (supraspinatus 
tear), positive pain on empty can test, normal gait, able to 
perform tandem walk with no trouble
Skin:  no obvious lesions, rashes or ulcers 

 
Pertinent Results:
ADMISSION LABS:
---------------
___ 04:10PM BLOOD WBC-6.1 RBC-4.45 Hgb-14.6 Hct-43.6 MCV-98 
MCH-32.8* MCHC-33.5 RDW-12.5 RDWSD-45.0 Plt ___
___ 04:10PM BLOOD Neuts-62.4 ___ Monos-5.6 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-3.78 AbsLymp-1.80 AbsMono-0.34 
AbsEos-0.09 AbsBaso-0.03
___ 04:10PM BLOOD Plt ___
___ 04:10PM BLOOD Glucose-91 UreaN-13 Creat-0.8 Na-138 
K-3.7 Cl-99 HCO3-27 AnGap-16
___ 04:10PM BLOOD ALT-93* AST-359* ___ 
AlkPhos-60 TotBili-0.6
___ 04:10PM BLOOD CK-MB-27* MB Indx-0.2
___ 04:10PM BLOOD Albumin-4.7 Calcium-10.0 Phos-3.9 Mg-2.1
___ 04:10PM BLOOD TSH-2.5
___ 04:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:36PM BLOOD ___ pO2-34* pCO2-49* pH-7.37 
calTCO2-29 Base XS-1 Intubat-NOT INTUBA
___ 04:23PM BLOOD Lactate-1.3
___ 10:36PM BLOOD O2 Sat-58

DISCHARGE LABS:
-----------------
___ 06:40AM BLOOD WBC-4.8 RBC-3.74* Hgb-12.1 Hct-36.6 
MCV-98 MCH-32.4* MCHC-33.1 RDW-12.5 RDWSD-45.0 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-84 UreaN-10 Creat-0.6 Na-142 
K-3.8 Cl-107 HCO3-26 AnGap-13
___ 06:40AM BLOOD ALT-79* AST-169* LD(LDH)-190 
CK(CPK)-3655* AlkPhos-45 TotBili-0.6
___ 06:40AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.___ PMH HTN who is otherwise healthy who presented to ___ for 
muscle cramps and elevated CK 3 weeks after tearing her 
supraspinatus muscle.  

# RHABDOMYOLYSIS. Most likely secondary to exercise, traumatic 
injury and NSAID use; all in the setting of inadequate rest and 
hydration. The patient fell of her bike approximately 2.5 weeks 
prior to presentation and tore her supraspinatus muscle. She 
continued to exercise following the injury and took NSAIDS for 
the pain. She had no evidence of autoimmune myopathy as a cause 
for rhabdo; however, rheumatology was consulted because the 
rhabdomyolysis developed more remotely from her injury than is 
typical. Rheumatology agreed that this is unlikely to be an 
autoimmune myopathy and that the patient did not need further 
rheumatologic workup. The patient was treated with IVF and her 
CK trended down from 15,000 on admission to 3505 on discharge. 
She was encouraged to limit her physical activity for the next 
___ weeks, avoid NSAIDS, take in adequate oral fluids, and 
follow-up with her PCP.

# TRANSAMINITIS. The patient had a transaminitis with AST>ALT, 
which is classically seen in rhabdomyolysis and is generally 
felt to be muscular, rather than hepatic in origin. While pt 
does drink EtOH, her consumption pattern would make EtOH 
hepatitis to this extent very unlikely. Her transaminases 
trended down with IVF, further confirming that her transaminitis 
was due to her rhabdomyolysis.

 
# HTN. The patient's home medication (lisinopril-HCTZ ___ was 
held for a concern that she may develop ___ as a result of 
her rhabdomyolysis. She did not develop ___ and ___ 
medication was restarted on discharge.
 

# GAIT INSTABILITY. In the ED the patient was experience 
imbalance when asked to tandem walk. Neurology came and 
evaluated her and said that it was most likely due to pain as 
opposed to a neurologic issue. The patient's gait was reassessed 
prior to discharge and was back to baseline. She was having no 
balance difficulty with the tandem walk.

Tranisitional Issues:
======================
- Repeat CK and LFTs within ___ days to ensure continues to 
down-trend
- If CK/LFTs rising, consider Rheum referral to assess for 
myositis, patient will follow-up with neurology as an outpatient
- Needs to discuss preoperative clearance for orthopedic surgery 
that is scheduled for ___
- Instructed patient to avoid strenuous activity for ___ weeks
- Counseled regarding limiting NSAID use; can take up to ___ of 
Tylenol as needed
- Code: Full
- Contact: ___ (husband) ___
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. ValACYclovir 1000 mg PO DAILY:PRN Herpes flare 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  ValACYclovir 1000 mg PO DAILY:PRN Herpes flare  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Rhabdomyolysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for rhabdomyolysis. Rhabdomyolysis is 
a condition where you are having muscle breakdown. The breakdown 
products from your muscles are released into your blood stream, 
one of which is CK. Your CK was found to be elevated, which is 
what helped make the diagnosis of rhabdomyolysis. It was felt 
that your rhabdomyolysis was due to a combination of things: 
your supraspinatus muscle tear, taking NSAIDs for pain control, 
and continued physical activity while having an injury. Your 
rhabdomyolysis was treated by giving you intravenous fluids to 
help you clear the muscle breakdown products from your body by 
excreting them in your urine. Your CK was monitored while you 
were in the hospital and it was trending downwards, so you were 
discharged home to follow up with your primary care physician.

Please inform your orthopedic surgeon that you had 
rhabdomyolysis so that they may do the proper preoperative 
screening prior to your orthopedic surgery.

Please attend your follow up appointments as listed below.

Thank you for choosing ___ for your healthcare needs. It was a 
pleasure taking care of you.

Sincerely,
Your ___ Team
 
Followup Instructions:
___